US03980645
To a solution of 1.89 g of 2-trichloroacetamido-5-chlorobenzophenone in 50 ml of ethanol was added 2.22 g of 1,3-diaminopropane, and the resultant mixture was allowed to stand at room temperature overnight. Then, the reaction mixture was poured into 300 ml of water, and the precipitate thus formed was separated by filtration, washed with ether and dried to give 1.25 g of 10-chloro-1,2,3,4,7,11b-hexahydro-11b-phenyl-6H-pyrimido[1,2-C]quinazolin-6-one, having a melting point of 275° - 276°C.

reactant | 2-trichloroacetamido-5-chlorobenzophenone | 1.89 g | ClC(C(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)(Cl)Cl | C15H9Cl4NO2
reactant | 1,3-diaminopropane | 2.22 g | NCCCN | C3H10N2
reactant | water | 300 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 10-chloro-1,2,3,4,7,11b-hexahydro-11b-phenyl-6H-pyrimido[1,2-C]quinazolin-6-one | 1.25 g | ClC1=CC=2C3(N(C(NC2C=C1)=O)CCCN3)C3=CC=CC=C3 | C17H16ClN3O
